US08304434B2
1-{[2-bromo-4-(trifluoromethyl)phenyl]sulfonyl}-4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]-sulfonyl}ethyl)piperidine
To a 10 ml vial was loaded 4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidine (60 mg, 0.179 mmol), diisoprpoylethylamine (0.093 ml, 0.54 mmol), 2-bromo-4-(trifluoromethyl)benzenesulfonyl chloride (87 mg, 0.27 mmol), N,N-dimethylaminopyridine (4.4 mg, 0.036 mmol) and 1 ml methylene chloride. The resulting reaction solution was stirred at room temperature for one hour. It was diluted with 20 ml ethyl acetate, washed sequentially with 20 ml 1N HCl, 20 ml 10% KOH and 20 ml brine. Organics were dried over sodium sulfate, filtered and concentrated to give 91 mg white solid. A fraction of this crude product (20 mg) was further purified on a reverse phase column eluted with water/acetonitrile gradient solvent to give 16 mg desired product as fluffy white solid after lyophilizing.

reactant | 4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidine | 0.179 mmol, 60 mg | CC(C)(S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)C1CCNCC1 | C15H20F3NO2S
reactant | 2-bromo-4-(trifluoromethyl)benzenesulfonyl chloride | 0.27 mmol, 87 mg | BrC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)Cl | C7H3BrClF3O2S
reactant | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 1-{[2-bromo-4-(trifluoromethyl)phenyl]sulfonyl}-4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]-sulfonyl}ethyl)piperidine | 91 mg | BrC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)N1CCC(CC1)C(C)(S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)C | C22H22BrF6NO4S2
